US07868003B2
3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-1-methylimidazolidine-2,4-dione hydrochloride
4-Nitrophenyl[2-((R)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]carbamate (125 mg) was dissolved in absolute THF (5 ml), and sarcosine methyl ester hydrochloride and triethylamine were added dropwise with stirring. After stirring for 5 h, the reaction mixture was freed of the solvent, and the residue was admixed with water and 2 N hydrochloric acid and refluxed for 2 h. After standing overnight, the reaction mixture was concentrated and admixed with ethyl acetate, water and saturated potassium carbonate solution. After separation of the phases, the organic phase was washed five times with saturated potassium carbonate solution and twice with saturated sodium chloride solution. Drying over magnesium sulfate and filtration were followed by concentration. The residue was purified by means of preparative HPLC. The fractions comprising product were combined, the acetonitrile was removed on a rotary evaporator, and the aqueous residue was neutralized with saturated potassium carbonate solution and extracted three times with ethyl acetate. After the combined ethyl acetate phases had been dried over magnesium sulfate, they were filtered and concentrated to dryness. The residue was taken up with water/hydrochloric acid and freeze-dried. 60 mg of the title compound were obtained.

reactant | 4-Nitrophenyl[2-((R)-6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]carbamate | 125 mg | [N+](=O)([O-])C1=CC=C(C=C1)N(C([O-])=O)C1=C(C=CC=C1)[C@@H]1CN(CC2=C(C=C(C=C12)Cl)Cl)C
reactant | sarcosine methyl ester hydrochloride | Cl.COC(CNC)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-1-methylimidazolidine-2,4-dione hydrochloride | 60 mg | Cl.ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(N(CC1=O)C)=O | InChI=1S/C20H19Cl2N3O2.ClH/c1-23-9-15(14-7-12(21)8-17(22)16(14)10-23)13-5-3-4-6-18(13)25-19(26)11-24(2)20(25)27;/h3-8,15H,9-11H2,1-2H3;1H/t15-;/m0./s1
